US06515003B1
To a solution of 4-(dimethylamino)-benzaldehyde (10.0 g, 67.03 mmol) in dichloromethane (250 mL) was added pyridinium tribromide (21.4 g, 67.03 mmol). The reaction mixture was stirred at room temperature overnight. The solution was washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. Choromatography on silica gel (15% EtOAc in hexane) afforded 14.06 g of 3-bromo-4-(dimethylamino)-benzaldehyde (92%).

reactant | 4-(dimethylamino)-benzaldehyde | 67.03 mmol, 10.0 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | pyridinium tribromide | 67.03 mmol, 21.4 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 3-bromo-4-(dimethylamino)-benzaldehyde | 14.06 g, 92% | BrC=1C=C(C=O)C=CC1N(C)C | C9H10BrNO
